US05256822
A 50-ml four-neck flask equipped with a Vigreux column (2 cmφ×25 cm) and a dehydrating column (filled with molecular sieve) attached thereon was charged with 5-amino-2-chloro-4-fluorophenol (1 g), methyl isobutyl ketone and heptane (weight ratio, 4:1; 40 g), and p-toluenesulfonic acid (4 mg). The mixture was dehydrated under reflux at 60° C. under reduced pressure (constant at 150 mmHg) for 6 hours. The concentration under reduced pressure gave 1.5 g of 5-(1,3-dimethylbutylidenamino)-2-chloro-4-fluorophenol (yield, 100%), m.p., 92°-97° C.; MS (m/z): 243 (M+) 228, 186; NMR (CDCl3, δ) as a 1:4 mixture of cis and trans forms: 0.80 and 1.00 (d, 6H, J=6 Hz), 1.80 and 2.20 (s, 3H), 2.0-2.2 and 2.35-2.38 (m, 3H), 6.3 and 6.4 (d, 1H, J=7.6 Hz), 6.6-7.0 (broad, 1H), 7.04 (d, 1H, J=9.6 Hz).

reactant | 5-amino-2-chloro-4-fluorophenol | 1 g | NC=1C(=CC(=C(C1)O)Cl)F | C6H5ClFNO
reactant | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
catalyst | p-toluenesulfonic acid | 4 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | heptane | 40 g | CCCCCCC | C7H16
product | 5-(1,3-dimethylbutylidenamino)-2-chloro-4-fluorophenol | 1.5 g, 100% | CC(CC(C)C)=NC=1C(=CC(=C(C1)O)Cl)F | C12H15ClFNO
